US05294626
(d) 6-(4-(2-Aminoethyl)phenyl)-6-(3-pyridyl)hexanoic acid
4.0 g of 6-(4-(2-acetylaminoethyl)phenyl)-6-(3-pyridyl)hexanoic acid are refluxed for 18 hours with 50 ml of half concentrated hydrochloric acid. The mixture is then rotary evaporated and the residue is purified by chromatography over a column of silica gel using methanol.

reactant | 6-(4-(2-acetylaminoethyl)phenyl)-6-(3-pyridyl)hexanoic acid | 4.0 g | C(C)(=O)NCCC1=CC=C(C=C1)C(CCCCC(=O)O)C=1C=NC=CC1 | C21H26N2O3
reactant | hydrochloric acid | Cl | ClH
product | 6-(4-(2-Aminoethyl)phenyl)-6-(3-pyridyl)hexanoic acid | NCCC1=CC=C(C=C1)C(CCCCC(=O)O)C=1C=NC=CC1 | C19H24N2O2
